US04797470
N-[(1,1-dimethylethoxy)carbonyl]-2,6-dimethyl-O-[(phenylmethoxy)carbonyl]-L-tyrosyl-N-(3-phenylpropyl)-D-alaninamide.
To N[(1,1-dimethylethoxy)carbonyl]-2,6-dimethyl-L-tyrosyl-N-(3-phenylpropyl)-D-alaninamide (1.0 g, 2.0 mmol) dissolved in 75 ml of CH2Cl2 and cooled to -20° C. was added 264 mg (0.3 mmol) of N-methylmorpholine. The reaction was then cooled to -78° C. and maintained under an argon atmosphere. Benzylchloroformate (445 mg, 2.5 mmol) was then added to the stirred reaction mixture. The reaction was allowed to slowly warm to room temperature an stir overnight. The mixture was then filtered and the filtrate diluted with CH2CL2 (150 ml). This filtrate was washed 3 times with 75 ml aliquots of 0.5N KHSO4 and once with 75 ml of brine before it was dried over Na2SO4. The organic layer was then stripped of all solvent under reduced pressure to yield a pale yellow solid which by TLC was a mixture of product and starting material. This material was redissolved in 40 ml of CH 2 CL2 and then retreated with N-methylmorpholine and benzylchloroformate in a manner identical to the reaction disclosed above. This second reaction was worked up as described for the original reaction yield a pale yellow solid which was then triterated with hexane containing 5% diethylether to give 1.24 g of the titled product.

reactant | N[(1,1-dimethylethoxy)carbonyl]-2,6-dimethyl-L-tyrosyl-N-(3-phenylpropyl)-D-alaninamide | 2.0 mmol, 1.0 g | CC(C)(OC(=O)N[C@@H](CC1=C(C=C(C=C1C)O)C)C(=O)N[C@H](C)C(=O)NCCCC1=CC=CC=C1)C | C28H39N3O5
reactant | N-methylmorpholine | 0.3 mmol, 264 mg | CN1CCOCC1 | C5H11NO
reactant | Benzylchloroformate | 2.5 mmol, 445 mg | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | hexane | CCCCCC | C6H14
solvent | CH2Cl2 | 75 ml | C(Cl)Cl | CH2Cl2
product | N-[(1,1-dimethylethoxy)carbonyl]-2,6-dimethyl-O-[(phenylmethoxy)carbonyl]-L-tyrosyl-N-(3-phenylpropyl)-D-alaninamide | 1.24 g | CC(C)(OC(=O)N[C@@H](CC1=C(C=C(C=C1C)OC(=O)OCC1=CC=CC=C1)C)C(=O)N[C@H](C)C(=O)NCCCC1=CC=CC=C1)C | C36H45N3O7
